US04980356
3-(4-Trifluoromethoxyanilino)propionamide may be prepared in the following manner: 3-(4-trifluoromethoxyanilino)propionitrile (5.4 g), obtained in Example 1, and concentrated sulphuric acid (20 cc) are heated to 90° C. for 2 hours. After cooling to a temperature of 20° C., this solution is added to ice (250 g) and the pH is brought to 9-10 with concentrated sodium hydroxide (10N). 3-(4-Trifluoromethoxyanilino)propionamide (4.2 g), m.p. 76° C., is thereby isolated directly.

reactant | 3-(4-Trifluoromethoxyanilino)propionamide | FC(OC1=CC=C(NCCC(=O)N)C=C1)(F)F | C10H11F3N2O2
solvent | sulphuric acid | 20 cc | S(O)(O)(=O)=O | H2O4S
product | 3-(4-trifluoromethoxyanilino)propionitrile | 5.4 g | FC(OC1=CC=C(NCCC#N)C=C1)(F)F | C10H9F3N2O
